US06455708B1
Preparation of 1-Fluoro-2-fluoromethyl-3-butyn-2-yl p-Toluenesulfonate
An amount (6.6 g) of 1-fluoro-2-fluoromethyl-3-butyn-2-ol and p-toluenesulfonyl chloride (9.5 g) were dissolved in tetrahydrofuran (100 ml); to the solution under cooling with ice, 60% oily sodium hydride (2.4 g) was added under a nitrogen atmosphere. After the end of the addition, the mixture was stirred for 5 hours while its temperature was raised to room temperature. To the reaction mixture, water was added followed by extraction with ether. The extract was washed with water and a saturated aqueous solution of sodium chloride, dried with anhydrous sodium sulfate and concentrated under reduced pressure. The resulting residue was subjected to silica gel column chromatography (eluent; hexane/methylene chloride=1/1) to give the titled compound (11.1 g).

reactant | 1-fluoro-2-fluoromethyl-3-butyn-2-ol | 6.6 g | FCC(C#C)(O)CF | C5H6F2O
reactant | p-toluenesulfonyl chloride | 9.5 g | C1(=CC=C(C=C1)S(=O)(=O)Cl)C | C7H7ClO2S
reactant | sodium hydride | 2.4 g | [H-].[Na+]
reactant | water | O | H2O
solvent | tetrahydrofuran | 100 ml | O1CCCC1 | C4H8O
product | 1-Fluoro-2-fluoromethyl-3-butyn-2-yl p-Toluenesulfonate | 11.1 g | C1(=CC=C(C=C1)S(=O)(=O)OC(CF)(C#C)CF)C | C12H12F2O3S
